US05624943
Under the conditions of example 5 A, 500 mg of 3-{6-iodo-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester is reacted with 102 mg of phenylacetylene, worked up, and the crude product is chromatographed on silica gel with hexane/0-7% ethyl acetate. 265 mg of 3-{3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-(2-phenylethinyl)-2-pyridyl}-propionic acid methyl ester is obtained as oil.

reactant | 3-{6-iodo-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester | 500 mg | COC(CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)I)=O | C22H26INO4
reactant | phenylacetylene | 102 mg | C1(=CC=CC=C1)C#C | C8H6
product | 3-{3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-(2-phenylethinyl)-2-pyridyl}-propionic acid methyl ester | 265 mg | COC(CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)C#CC1=CC=CC=C1)=O | C30H31NO4
